US07465731B2
To a solution of ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (4.74 g) and 4-(Dimethylamino)pyridine (41.2 mg) in tetrahydrofuran (70 ml) was added di-tert-butyldicarbonate (5.89 g) at 20° C. and then stirred at 60° C. for 14 hours. The mixture was concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (70 g) using a mixed solvent of dichloromethane and methanol (60:1 to 15:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. Ethyl (2E)-3-{6-[[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate (5.49 g) was obtained as colorless oil.

reactant | ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 4.74 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | C21H25N3O2
reactant | di-tert-butyldicarbonate | 5.89 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(Dimethylamino)pyridine | 41.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | Ethyl (2E)-3-{6-[[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino]-3-pyridyl}acrylate | 5.49 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)C(=O)OC(C)(C)C | C26H33N3O4
